US06048823
Preparation of 4-chloro-2-fluoro-5-methoxybenzyl chloride (Intermediate No. 15-15)
17.6 g (0.11 mol) of 2-chloro-4-fluoroanisole was dissolved in a dichloromethane solution of 1N titanium tetrachloride, and 88.3 g (1.10 mol) of methoxymethyl chloride was dropwise added thereto at room temperature, followed by stirring at room temperature for 5 hours. after completion of the reaction, the reaction solution was poured into water, followed by stirring at room temperature for 2 hours, and then the aqueous phase was removed. The organic layer was dried over anhydrous magnesium sulfate, and the solvent was distilled off. Then, the obtained residue was purified by silica gel column chromatography to obtain 15.5 g (yield: 68%) of the desired product.

reactant | 2-chloro-4-fluoroanisole | 0.11 mol, 17.6 g | ClC1=C(C=CC(=C1)F)OC | C7H6ClFO
reactant | methoxymethyl chloride | 1.10 mol, 88.3 g | COCCl | C2H5ClO
reactant | water | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | titanium tetrachloride | 1N | [Ti](Cl)(Cl)(Cl)Cl
product | 4-chloro-2-fluoro-5-methoxybenzyl chloride | 15.5 g, yield: 68% | ClC1=CC(=C(CCl)C=C1OC)F | C8H7Cl2FO
